US08222416B2
To a solution of 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-(1,4-dioxa-spiro[4.4]non-7-yl)-ethanone (2.4 g, 5.63 mmol) in dry tetrahydrofuran (160 mL) at −78° C. was added a lithium bis(trimethylsilyl)amide solution in tetrahydrofuran (1.0 M, 8.45 mL, 8.45 mmol) dropwise. After stirring at −78° C. for 1 h, a solution of p-toluenesulfonic anhydride (2.76 g, 8.45 mmol) in tetrahydrofuran (80 mL) was added dropwise. The resulting solution was kept at −78° C. for an additional 1 h. The reaction was quenched with water, extracted with ethyl acetate (100 mL), washed with brine, dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification by flash column chromatography (QingDao silica gel, 200-300 mesh, 50% ethyl acetate/hexanes) afforded toluene-4-sulfonic acid 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-(1,4-dioxa-spiro[4.4]non-7-yl)-vinyl ester (1.7 g, 52%) as a white solid: LC/MS m/e calcd for C29H28N2O7S2 [M+H]+ 581.68, observed 581.6.

reactant | 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-(1,4-dioxa-spiro[4.4]non-7-yl)-ethanone | 5.63 mmol, 2.4 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(CC2CC1(OCCO1)CC2)=O | C22H22N2O5S
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | p-toluenesulfonic anhydride | 8.45 mmol, 2.76 g | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
solvent | tetrahydrofuran | 160 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8.45 mmol, 1.0 M, 8.45 mL | O1CCCC1 | C4H8O
product | toluene-4-sulfonic acid 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-(1,4-dioxa-spiro[4.4]non-7-yl)-vinyl ester | 1.7 g, 52% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(=CC2CC1(OCCO1)CC2)OS(=O)(=O)C2=CC=C(C=C2)C | C29H28N2O7S2
